US08084489B2
A solution of 5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carboxylic acid methyl ester (0.239 g, 0.492 mmol) in THF (5.0 mL) is treated with LiOH (1N aqueous, 5.0 mL, 5.0 mmol), warmed to 70° C., and stirred overnight. The reaction mixture is cooled to rt, acidified with HCl (1N aqueous, 5.2 mL), and extracted with EtOAc (3×10 mL). The combined extracts are dried over MgSO4, filtered, and concentrated to provide 5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carboxylic acid (0.210 g, 90%) as a yellow foam. MS (ES): 471.2 [M−H]−.

reactant | 5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carboxylic acid methyl ester | 0.492 mmol, 0.239 g | COC(=O)C=1SC(=CC1)C1(CC=CC1)COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C | C27H25F3O3S
reactant | LiOH | 5.0 mmol, 1N, 5.0 mL | [Li+].[OH-]
reactant | HCl | 1N, 5.2 mL | Cl | ClH
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carboxylic acid | 0.210 g, 90% | CC1=C(C(=CC(=C1)OCC1(CC=CC1)C1=CC=C(S1)C(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C26H23F3O3S
